Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tramadol
 
Attending: ___.
 
Chief Complaint:
Bilateral thigh pain/BRBPR

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old male with history of T3N1 adeno colon 
cancer s/p right colectomy and lumbar stenosis s/p L4-L5 
decompression and posterior fusion on ___ admitted for thigh 
pain and bright red blood per rectum on exam. Patient was 
discharged ___ s/p uncomplicated posterior fusion at ___, went 
to ___ where he developed a DVT and started on 
Lovenox and Coumadin.  His DVT was located in the left calf 
area, associated with pain and swelling which have since 
resolved with anticoagulation and compression stockings.  He was 
discharged on ___ to home.  Since that time, he has 
developed bilateral sensitivity on his thighs - characterized as 
achy feeling with no associated weakness or numbness in his 
lower extremities.  He denies bowel or bladder incontinence.  He 
spoke with Dr. ___ on ___ who instructed him to go to the 
ER for eval, but he deferred going to the ED until ___.  He 
was seen by spine who recommend CT LS spine for eval of hardware 
positioning.  On rectal exam, tone was normal, but there was 
BRBPR.  Patient was noted to have external hemorrhoid with small 
ulceration, however there was blood more proximal in the rectum. 
 Patient denies bloody bowel movement or BRBPR prior to this; 
however he had noticed his hemorrhoid ~ 1 week ago. Also with 
left ear disequilibrium x 1 week, failed debrox.
.  
In the ED, initial VS were: 97.4  125/75  83  16  98%RA.  On the 
floor, patient had no new complaints and is comfortable.

 
Past Medical History:
Onc history: T3N1 Adeno Ca, Stage III, dx in ___, initially 
p/w fatigue, SOB, low Hct requiring 6U pRBC, ___ and CT torso 
from ___ showed 7x6cm intraluminal mass at hepatic flexure, 
s/p R colectomy, high pre-OP CEA (15) down to 3.9 post-op, 
started FOLFOX (oxaliplatin, ___, leukovorin) on ___, q2wks for 

12 wks, last (second) cycle was ___ followd by diarrhea, 
otherwise well tolerated.  
- T3N1 Adeno Ca, Stage III, dx in ___ (see onc history)  
- antral ulcer on EGD ___
- s/p open cholecystectomy in ___  
- obesity  
- Lumbar stenosis s/p L4-S1 decompression, PSF

 
Social History:
___
Family History:
no h/o colon ca
 
Physical Exam:
Vitals: T: 97 BP: 124/70 P: 71 R: 18 O2: 92%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Back: 4inch vertical incision site over lumbar spine that is 
c/d/i with no sign of infection or drainage; no spinal 
tenderness; no CVA tenderness
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; no palpable cords, compression stockings in place in 
bilateral lower extremities 
Neuro: CN II-XII grossly intact, stregth ___ in bilateral upper 
extremities and lower right extremity, 4+/5 in left lower 
extremity; sensation intact throughout.
Rectal: painful external hemorrhoid with small ulcer on it, 
trace blood on glove from area in contact with hemorrhoid, no 
palpable internal hemorrhoid.

 
Pertinent Results:
___ 01:15PM BLOOD WBC-5.4# RBC-3.67* Hgb-11.5* Hct-35.1*# 
MCV-96 MCH-31.2 MCHC-32.7 RDW-15.7* Plt ___
___ 09:30AM BLOOD Hct-33.3*
___ 07:00AM BLOOD ___
___ 01:15PM BLOOD ___ PTT-33.5 ___
___ 01:15PM BLOOD Glucose-104* UreaN-7 Creat-0.7 Na-138 
K-4.0 Cl-104 HCO3-25 AnGap-13
___ 01:15PM BLOOD LD(LDH)-238 CK(CPK)-34*

CT L-Spine: 1. Transitional anatomy at L1. 2. L4-S1 posterior 
instrumented fusion without evidence of hardware-related 
complications. 3. Unchanged moderate L5 vertebral body 
compression fracture, s/p  vertebroplasty, with unchanged mild 
retropulsion.  4. Evaluation of intraspinal detail by CT is 
limited. Evaluation for a fluid collection in the surgical bed 
is also limited by hardware-related artifacts. MRI could provide 
more information, if indicated. 

 
Brief Hospital Course:
___ with history or recent posterior fusion L4/L5 complicated by 
DVT in lower left extremity at rehab, on lovenox and coumadin, 
initially presented with bilateral thigh pain found to have 
BRBPR on rectal exam.

# Thigh Pain - Evaluated by ortho-spine in the ED, recommended 
CT L-spine on admission.  CT showed expected post-operative 
changes with hardware intact.  Strength and sensation were 
intact on exam.  Ortho-spine and Dr. ___ agreed with 
discharge home and recommended follow-up in 6 weeks.

# BRBPR - No complaint prior to presenation, found to have BRBPR 
in ER on rectal exam.  Hematocrit was stable from prior 
discharge, actually increased.  GI was consulted in ED and 
planned to eval after admission.  Discussion for colonscopy was 
had with GI and patient on night of admission.  GI recommended 
colonoscopy in the morning, patient decined.  On repeat rectal 
exam, trace blood was associated with large externial 
hemorrhoid.  Decision was made to monitor serial hematocrits, 
which were stable.  On day 1 of admission, patient was 
requesting to be sent home with outpatient follow-up.  CBC will 
be drawn 48 hours after discharge and sent to PCP.  Patient was 
given list of warning signs and instructed to call PCP if has 
BRBPR.  External hemorrhoid should be evaluated by PCP ___. 
surgery for definitive treatment.

# Anticoagulation - On lovenox and warfarin for treatment of 
DVT, INR subtherapeutic on admission.  Lovenox continued, 
warfarin held during admission.  Given risk for PE in DVT, 
patient was discharged home on Lovenox and Warfarin to follow-up 
with ___ clinic.  Discussed risks/benefits of 
continuing anticoagulation in setting of possible GI bleed.

 
Medications on Admission:
Colace
warfarin 7.5 mg at bed time
lovenox

 
Discharge Medications:
1. Lovenox ___ mg/mL Syringe Sig: One (1)  Subcutaneous twice a 
day.  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. warfarin 5 mg Tablet Sig: 1.5-2 Tablets PO once a day: Take 
10 mg on ___ and 7.5 mg on ___, your dose will be decided 
after INR check on ___.  
4. Outpatient Lab Work
Please draw CBC and INR on ___ and fax results to PCP 
(___) and ___ clinic.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bright Red Blood per rectum
Thigh Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital for evaluation of your thigh 
pain and concern for bleeding from your bowel.  You had a CT 
scan of your lumbar spine which showed expected post-surgical 
changes.  Orthopedic surgery evaluatated you and recommended 
follow-up in 6 weeks.  Due to concern for blood found on a 
rectal exam, you were monitored closely overnight.  Your 
hematocrit was stable and you did not have a bloody bowel 
movement.  You are being discharged home to follow-up with your 
primary care provider.  Be sure to check your stools for blood 
and call your PCP if you have any signs of bleeding: red or 
maroon stool; dark, tarry stools; lightheadeness; fainting.

Due to the wax seen in your ear and your concerns, an 
appoitnment was made for you this ___ to see your ENT.

You should continue your Lovenox and Warfarin as prescribed.  
Warfarin daily dosing:
___: 10 mg 
___: 7.5 mg
___: INR will be checked, dose communicated as usual
 
Followup Instructions:
___